US06713499B2
To a stirred solution of 430 mg (1.15 mmol) 1-benzoyl-3-{2-methoxy-5-[(2-methoxy-ethyl)-methyl-amino]-phenyl}-thiourea in 8 ml chloroform was added dropwise 0.059 ml (1.15 mmol) bromine and the reaction mixture heated at reflux for 18 hours. The mixture was then cooled to room temperature, poured slowly onto water and extracted three times with ethyl acetate. The combined organic phases were dried over sodium sulfate and concentrated in vacuo. Flash chromatography (1/4 ethyl acetate/hexane) afforded 120 mg (28%) N-{4-methoxy-7-[(2-methoxy-ethyl)-methyl-amino]-benzothiazol-2-yl}-benzamide as a yellow solid. ES-MS m/e (%): 394 (M+Na+, 14), 372 (M+H+, 100).

reactant | 1-benzoyl-3-{2-methoxy-5-[(2-methoxy-ethyl)-methyl-amino]-phenyl}-thiourea | 1.15 mmol, 430 mg | C(C1=CC=CC=C1)(=O)NC(=S)NC1=C(C=CC(=C1)N(C)CCOC)OC | C19H23N3O3S
reactant | bromine | 1.15 mmol, 0.059 ml | BrBr | Br2
solvent | chloroform | 8 ml | C(Cl)(Cl)Cl | CHCl3
product | N-{4-methoxy-7-[(2-methoxy-ethyl)-methyl-amino]-benzothiazol-2-yl}-benzamide | 120 mg, 28% | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC=CC=C2)=O)N(C)CCOC | C19H21N3O3S
